US08278441B2
4-(3-Bromophenyl)-3,6-dihydro-2H-pyran
A mixture of 4-(3-bromophenyl)tetrahydro-2H-pyran-4-ol (11.17 g, 41.3 mmol) and p-toluenesulfonic acid monohydrate (0.797 g, 4.13 mmol) in toluene (100 mL) is heated to reflux for 30 minutes using a Dean-Stark trap to remove water. The reaction is diluted with water and 5 N NaOH and extracted with EtOAc. The organic layer is dried over Na2SO4 and the solvent is removed under reduced pressure to afford a residue that is purified on silica gel chromatography eluting with a linear gradient of 5% to 100% EtOAc in hexanes to give the title compound (8.85 g, 90%). 1H NMR (400 MHz, CDCl3) δ 2.45-2.50 (m, 2H), 3.92 (t, 2H, J=5.71 Hz), 4.31 (q, 2H, J=3.07 Hz, J=5.71 Hz), 6.12-6.14 (m, 1H), 7.19 (t, 1H, J=7.91 Hz), 7.28-7.32 (m, 1H), 7.36-7.39 (m, 1H), 7.51 (t, 1H, J=1.76 Hz).

reactant | 4-(3-bromophenyl)tetrahydro-2H-pyran-4-ol | 41.3 mmol, 11.17 g | BrC=1C=C(C=CC1)C1(CCOCC1)O | C11H13BrO2
reactant | p-toluenesulfonic acid monohydrate | 4.13 mmol, 0.797 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Bromophenyl)-3,6-dihydro-2H-pyran | 8.85 g, 90% | BrC=1C=C(C=CC1)C=1CCOCC1 | C11H11BrO
